US03991202
A mixture of 8 parts of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole, 5.6 parts of 2-bromo-N-(p-methylbenzyl)propionamide and 80 parts of acetonitrile is stirred and refluxed for 20 hours. The reaction mixture is evaporated and the residue is crystallized from a mixture of 4-methyl-2-pentanone and diisopropyl ether, yielding 9 parts of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-{1-[N-(p-methylbenzyl)carbamoyl]ethyl}-imidazolium bromide; mp. 136.2° C.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | 2-bromo-N-(p-methylbenzyl)propionamide | BrC(C(=O)NCC1=CC=C(C=C1)C)C | C11H14BrNO
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-{1-[N-(p-methylbenzyl)carbamoyl]ethyl}-imidazolium bromide | [Br-].ClC1=C(C(C[N+]2=CN(C=C2)C(C)C(NCC2=CC=C(C=C2)C)=O)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C29H27Cl4N3O2.BrH/c1-19-3-5-21(6-4-19)15-34-29(37)20(2)36-12-11-35(18-36)16-28(25-10-9-24(31)14-27(25)33)38-17-22-7-8-23(30)13-26(22)32;/h3-14,18,20,28H,15-17H2,1-2H3;1H
